US07727992B2
4-Hydroxy-6-methyl-1-pyridin-2-ylmethyl-1H-pyridin-2-one:
To a suspension of 12.6 g (0.1 mol) of 4-hydroxy-6-methyl-2-pyrone in 50 ml water was added 2-(aminomethyl)pyridine (10.3 ml, 0.1 mol) and the mixture heated to reflux for 2.5 hours. The resulting light yellow compound was filtered from the cooled mixture. Concentration of the filtrate and trituration of the resulting gum with dichloromethane afforded a second crop of the title compound (19.85 g, 92%). NMR (DMSO-d6, ppm): 10.5 (s, 1H), 8.5 (d, 1H), 7.7-7.8 (t, 1H), 7.2 (t, 1H), 7.1 (d, 1H), 5.8 (s, 1H), 5.5 (s, 1H), 5.2 (s, 2H), 2.2 (s, 3H). FIA: m/z-215.1 ES−/217.1 ES+

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.1 mol, 12.6 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 2-(aminomethyl)pyridine | 0.1 mol, 10.3 ml | NCC1=NC=CC=C1 | C6H8N2
solvent | water | 50 ml | O | H2O
product | 4-Hydroxy-6-methyl-1-pyridin-2-ylmethyl-1H-pyridin-2-one | 19.85 g, 92% | OC1=CC(N(C(=C1)C)CC1=NC=CC=C1)=O | C12H12N2O2
